data/polar.json
{"reaction_name": "Michael addition", "rsmi": "[CH:3]1([C:12](=[O:22])[O:35][CH3:14])[CH2:15][CH2:28][CH2:23][N:32]1[C:24]1=[CH:17][CH2:10][CH2:29][CH2:20][CH2:13]1.[O:1]=[C:30]1[N:6]([CH3:25])[C:27](=[O:8])[N:7]([CH3:26])[C:31](=[O:2])[C:18]1=[CH:21][c:9]1[cH:33][cH:4][c:19]([O:16][CH3:11])[cH:5][cH:34]1>>[O-:1][c:30]1[n:6]([CH3:25])[c:27](=[O:8])[n:7]([CH3:26])[c:31](=[O:2])[c:18]1[CH:21]([c:9]1[cH:33][cH:4][c:19]([O:16][CH3:11])[cH:5][cH:34]1)[CH:17]1[CH2:10][CH2:29][CH2:20][CH2:13][C:24]1=[N+:32]1[CH:3]([C:12](=[O:22])[O:35][CH3:14])[CH2:15][CH2:28][CH2:23]1", "epd": [["LP-/Pi+", [32], [24, 32]], ["Pi-/Sigma+", [17, 24], [17, 21]], ["Pi-/Pi+", [21, 18], [18, 30]], ["Pi-/LP+", [30, 1], [1]]]}
{"reaction_name": "Selenoxide elimination", "rsmi": "[Se:1]([CH:2]([C:7]([H:4])([H:5])[CH3:9])[CH3:8])([CH3:3])=[O:6]>>[CH:2](=[C:7]([H:5])[CH3:9])[CH3:8].[Se:1]([CH3:3])[O:6][H:4]", "epd": [["Sigma-/Pi+", [4, 7], [2, 7]], ["Sigma-/LP+", [1, 2], [1]], ["Pi-/LP+", [1, 6], [6]], ["LP-/Sigma+", [6], [4, 6]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:9]1[cH:2][n:8][c:11]2[c:27]([n+:4]([O-:3])[o:10][n:41]2)[cH:28]1)(=[O:36])[O-:40].[c:5]1([P:35]([c:6]2[cH:16][cH:22][c:38]([N:13]([CH3:31])[CH3:32])[cH:23][cH:17]2)[c:7]2[cH:18][cH:24][c:39]([N:14]([CH3:33])[CH3:34])[cH:25][cH:19]2)[cH:15][cH:21][c:37]([N:12]([CH3:29])[CH3:30])[cH:26][cH:20]1>>[N+:1](=[C:9]1[CH:2]=[N:8][c:11]2[c:27]([n+:4]([O-:3])[o:10][n:41]2)[CH:28]1[P+:35]([c:5]1[cH:15][cH:21][c:37]([N:12]([CH3:29])[CH3:30])[cH:26][cH:20]1)([c:6]1[cH:16][cH:22][c:38]([N:13]([CH3:31])[CH3:32])[cH:23][cH:17]1)[c:7]1[cH:18][cH:24][c:39]([N:14]([CH3:33])[CH3:34])[cH:25][cH:19]1)([O-:36])[O-:40]", "epd": [["LP-/Sigma+", [35], [35, 28]], ["Pi-/Pi+", [28, 9], [9, 1]], ["Pi-/LP+", [1, 36], [36]]]}
{"reaction_name": "Ketone-to-alkene conversion", "rsmi": "[C:2]([CH3:3])([CH3:4])=[O:5].[CH2:1]=[P:9]([CH3:6])([CH3:7])[CH3:8]>>[CH2:1]=[C:2]([CH3:3])[CH3:4].[O:5]=[P:9]([CH3:6])([CH3:7])[CH3:8]", "epd": [["Pi-/Sigma+", [2, 5], [1, 2]], ["Pi-/Sigma+", [1, 9], [5, 9]], ["Sigma-/Pi+", [2, 5], [5, 9]], ["Sigma-/Pi+", [1, 9], [1, 2]]]}
{"reaction_name": "Arenium-ion dearomatization sequence", "rsmi": "[c:1]1([O:7][CH3:8])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[CH3+:9]>>[C:1]1([O:7][CH3:8])=[CH:2][CH+:3][CH:4]([CH3:9])[CH:5]=[CH:6]1", "epd": [["Pi-/LP+", [3, 4], [4]], ["LP-/Sigma+", [4], [4, 9]]]}
{"reaction_name": "Friedel–Crafts alkylation", "rsmi": "[c:1]1([H:8])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[CH3+:7]>>[c:1]1([CH3:7])[cH:2][cH:3][cH:4][cH:5][cH:6]1.[H+:8]", "epd": [["Sigma-/Sigma+", [1, 8], [1, 7]]]}
{"reaction_name": "Tamao–Fleming oxidation", "rsmi": "[CH2:1]([Si:3]([CH3:6])([CH3:7])[CH3:8])[CH3:5].[O:4]([H:11])[O:10][H:12].[OH:2][H:9]>>[CH2:1]([O:4][H:9])[CH3:5].[OH:2][Si:3]([CH3:6])([CH3:7])[CH3:8].[O:10]([H:11])[H:12]", "epd": [["Sigma-/Sigma+", [1, 3], [1, 4]], ["Sigma-/Sigma+", [2, 9], [2, 3]], ["Sigma-/Sigma+", [4, 11], [4, 9]], ["Sigma-/Sigma+", [4, 10], [10, 11]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:1][C:10]([CH3:2])=[N+:12]([O-:15])[O-:16].[N:3]1([S:5][C:13]([F:6])([F:7])[F:8])[S:4](=[O:17])(=[O:18])[c:9]2[c:20]([cH:19][cH:11][cH:21][cH:23]2)[C:22]1=[O:14]>>[CH3:1][C:10]([CH3:2])([S:5][C:13]([F:6])([F:7])[F:8])[N+:12](=[O:15])[O-:16].[N:3]1=[C:22]([O-:14])[c:20]2[c:9]([cH:23][cH:21][cH:11][cH:19]2)[S:4]1(=[O:17])=[O:18]", "epd": [["LP-/Pi+", [15], [12, 15]], ["Pi-/Sigma+", [10, 12], [10, 5]], ["Sigma-/Pi+", [5, 3], [3, 22]], ["Pi-/LP+", [22, 14], [14]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:2]1([Cl:13])=[C:22]([Cl:9])[C:23]([Cl:18])=[C:7]([Cl:16])[C:20]([Cl:3])([Cl:4])[C:10]1=[O:14].[CH:1]1=[CH:5][c:6]2[cH:12][cH:11][cH:19][cH:8][c:15]2[CH:21]1[Na:17]>>[CH:1]1=[CH:5][c:6]2[cH:12][cH:11][cH:19][cH:8][c:15]2[CH:21]1[Cl:3].[Na+:17].[c:2]1([Cl:13])[c:10]([O-:14])[c:20]([Cl:4])[c:7]([Cl:16])[c:23]([Cl:18])[c:22]1[Cl:9]", "epd": [["Sigma-/Sigma+", [21, 17], [21, 3]], ["Sigma-/Pi+", [3, 20], [20, 10]], ["Pi-/LP+", [10, 14], [14]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:2]1[cH:5][c:7]2[c:24]([cH:14][cH:25]1)[CH:22]=[CH:4][CH:21]2[Li:10].[n:1]1[n:3][c:20]2[n:9]([cH:12][c:19]([N+:8](=[O:6])[O-:17])[cH:16][c:13]2[N+:15](=[O:11])[O-:23])[n:18]1>>[Li+:10].[n:1]1[n:3][c:20]2[n:9]([n:18]1)[CH:12]([CH:21]1[CH:4]=[CH:22][c:24]3[c:7]1[cH:5][cH:2][cH:25][cH:14]3)[C:19](=[N+:8]([O-:6])[O-:17])[CH:16]=[C:13]2[N+:15](=[O:11])[O-:23]", "epd": [["Sigma-/Sigma+", [21, 10], [21, 12]], ["Pi-/Pi+", [12, 19], [19, 8]], ["Pi-/LP+", [8, 6], [6]]]}
{"reaction_name": "[2,3]-Sigmatropic sulfoxide rearrangement", "rsmi": "[CH:1]([CH2:3][S:5]([CH2:4][CH:2]=[CH2:7])=[O:8])=[CH2:6]>>[CH:1]([CH2:3][O:8][S:5][CH2:4][CH:2]=[CH2:7])=[CH2:6]", "epd": [["LP-/Sigma+", [8], [3, 8]], ["Sigma-/LP+", [3, 5], [5]], ["Pi-/LP+", [5, 8], [8]]]}
